US05250527
Morpholine (7.34 ml) and 3.4 -dichloro-2 -hydroxymethylpyridine (3.0 g) were heated together in a bomb at 180 ° for 4 hours. After cooling, the mixture was taken up in ethanol and evaporated under reduced pressure to remove excess amine. The residue was taken up in water and extracted with chloroform. After drying (K2CO3 ) and removal of solvent, the residue was chromatographed (silica gel, CHCl3) to give an oil which was crystallised from petroleum ether (60/80 ) to give 4 -morpholino-3 -chloro-2 -hydroxymethylpyridine, 3.24 g, m.p. 80°-2°.

reactant | Morpholine | 7.34 ml | N1CCOCC1 | C4H9NO
reactant | 3.4 -dichloro-2 -hydroxymethylpyridine | 3.0 g | ClC=1C(=NC=CC1Cl)CO | C6H5Cl2NO
solvent | ethanol | C(C)O | C2H6O
product | 4 -morpholino-3 -chloro-2 -hydroxymethylpyridine | O1CCN(CC1)C1=C(C(=NC=C1)CO)Cl | C10H13ClN2O2
